US04355032
N2 -Acetyl-9-(1,3-dihydroxy-2-propoxymethyl)guanine (721.9 mg, 2.4 mmol) was stirred with 50 ml of methanolic ammonia solution (methanol saturated with ammonia at 0° C.) for 17 hours at 21° C. The solution was concentrated to a white solid and the residue recrystallized from methanol to give 582.3 mg of 9-(1,3-dihydroxy-2-propoxymethyl)-guanine, mp 250° C. d.

reactant | N2 Acetyl-9-(1,3-dihydroxy-2-propoxymethyl)guanine | 2.4 mmol, 721.9 mg | N#N.C(C)(=O)NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O
solvent | ammonia | 50 ml | N | H3N
product | 9-(1,3-dihydroxy-2-propoxymethyl)-guanine | 582.3 mg | OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O4
